US07411072B2
2-Amino-5-phenethyl-thiazole-4-carboxylic acid methyl ester
Reflux equimolar 3-chloro-2-oxo-5-phenyl-pentanoic acid methyl ester and thiourea in MeOH (1.0 M) for 4 h. Basify with ammonia-MeOH and add brine. Extract with ethyl acetate (4×). Wash combined organic layers with brine, dry (MgSO4), and concentrate under reduced pressure to give (91%) of title compound. HPLC (GRAD80-100M) t=2.193 (95%). MS (APCI): 263 (M+1).

reactant | 3-chloro-2-oxo-5-phenyl-pentanoic acid methyl ester | COC(C(C(CCC1=CC=CC=C1)Cl)=O)=O | C12H13ClO3
reactant | thiourea | NC(=S)N | CH4N2S
reactant | ammonia MeOH | N.CO
solvent | MeOH | 1.0 M | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-5-phenethyl-thiazole-4-carboxylic acid methyl ester | 91% | COC(=O)C=1N=C(SC1CCC1=CC=CC=C1)N | C13H14N2O2S
